US08748606B2
N-(5-amino-2-methylphenyl)-N′-(3-chloro-4-fluorophenyl)pyrimidine-4,6-diamine (Int-F) and 4-dimethylamino-2-butenoyl chloride were combined in a manner similar to that described in Scheme 4a to give (E)-N-[3-(6-(3-chloro-4-fluorophenyl)amino-pyrimidin-4-ylamino)-4-methylphenyl]-4-(dimethylamino)but-2-enamide (I-54). MS (m/z): 455/457 (M+1, 100/39%). 1H NMR (DMSO-d6) δ 11.02 (bs, 1H), 10.66 (bs, 1H), 9.92 (bs, 1H), 9.39 (bs, 1H), 7.92-7.94 (m, 1H), 7.75 (bs, 1H), 7.27-7.56 (m, 4H), 6.80 (m, 1H), 6.54 (d, 1H), 5.89 (bs, 1H), 3.92 (bs, 2H), 2.75 (bs, 6H), 2.17 (bs, 3H).

reactant | N-(5-amino-2-methylphenyl)-N′-(3-chloro-4-fluorophenyl)pyrimidine-4,6-diamine | NC=1C=CC(=C(C1)NC1=NC=NC(=C1)NC1=CC(=C(C=C1)F)Cl)C | C17H15ClFN5
reactant | 4-dimethylamino-2-butenoyl chloride | CN(CC=CC(=O)Cl)C | C6H10ClNO
product | (E)-N-[3-(6-(3-chloro-4-fluorophenyl)amino-pyrimidin-4-ylamino)-4-methylphenyl]-4-(dimethylamino)but-2-enamide | ClC=1C=C(C=CC1F)NC1=CC(=NC=N1)NC=1C=C(C=CC1C)NC(\C=C\CN(C)C)=O | C23H24ClFN6O
